US07393366B2
8.5 g (36.6 mmol) of N,N-dimethyl-4-[1,3-thiazol-2-yldiazenyl]aniline are heated with 85 ml of butane sultone at 110° C. for 6 hours. After cooling, 200 ml of tetrahydrofuran are added to the reaction mixture and the precipitated product is filtered off, washed with acetone and dried. The dye is recrystallized with methanol/ethyl acetate. 11.8 g (87% of theory) of 4-(2-{[4-(dimethylamino)phenyl]diazenyl}-1,3-thiazol-3-ium-3-yl)-1-butanesulfonate are obtained as a dark blue power.

reactant | N,N-dimethyl-4-[1,3-thiazol-2-yldiazenyl]aniline | 36.6 mmol, 8.5 g | CN(C1=CC=C(C=C1)N=NC=1SC=CN1)C | C11H12N4S
reactant | butane sultone | 85 ml | C1CCCOS1(=O)=O | C4H8O3S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(2-{[4-(dimethylamino)phenyl]diazenyl}-1,3-thiazol-3-ium-3-yl)-1-butanesulfonate | 11.8 g, 87% | CN(C1=CC=C(C=C1)N=NC=1SC=C[N+]1CCCCS(=O)(=O)[O-])C | C15H20N4O3S2
